US08357679B2
A: (4-Amino-3,5-difluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone
4-Amino-3,5-difluorobenzoic acid (1.899 mmol, 329 mg), 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)propan-2-ol (1.899 mmol, 650 mg) and triethylamine (5.70 mmol, 0.792 mL, 576 mg) were combined and stirred at room temperature in dichloromethane (5 mL). 1-Propanephosphonic acid cyclic anhydride (2.85 mmol, 1.696 mL, 1813 mg; 50% solution in ethyl acetate) was added and the reaction stirred for 2 hours. Saturated sodium hydrogen carbonate solution was added to the reaction mixture and the layers separated. The organic layer was dried over magnesium sulfate and concentrated under vacuum to afford the title compound (340 mg) as a pale pink solid. MS (ESI) m/z 498.7 [M+H]+

reactant | 4-Amino-3,5-difluorobenzoic acid | 1.899 mmol, 329 mg | NC1=C(C=C(C(=O)O)C=C1F)F | C7H5F2NO2
reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(piperazin-1-ylmethyl)phenyl)propan-2-ol | 1.899 mmol, 650 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCNCC1)(F)F | C14H16F6N2O
reactant | triethylamine | 5.70 mmol, 0.792 mL, 576 mg | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 2.85 mmol, 1.696 mL, 1813 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (4-Amino-3,5-difluorophenyl)(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 340 mg | NC1=C(C=C(C=C1F)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)F | C21H19F8N3O2
